US06353006B1
2-Piperidenemethanol was made from methyl pipecolinate as described in Method B1b. The 2-hydroxyethylamine was converted to 2-chloromethylpiperidinium chloride according to Method B7a. 2-Methyl4-nitrophenyl isothiocyanate was reacted with 2-chloromethylpiperidinium chloride according according to Method C1a to give 9-(2-methyl-4-nitrophenylimino)-1-aza-8-thiabicyclo[4.3.0]nonane.

reactant | methyl pipecolinate | N1C(C(=O)OC)CCCC1 | C7H13NO2
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
reactant | 2-chloromethylpiperidinium chloride | [Cl-].ClCC1[NH2+]CCCC1
reactant | 2-Methyl4-nitrophenyl isothiocyanate | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C=S | C8H6N2O2S
product | 9-(2-methyl-4-nitrophenylimino)-1-aza-8-thiabicyclo[4.3.0]nonane | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SCC2CCCCN12 | C14H17N3O2S
